US05861414
(i) 4-{2-[3-(1-tert-Butoxycarbonylmethyl-piperidin-4-yl)-1-(4-chloro-benzyl)-1H-indazol-6-yl]-(E)-vinyl}-piperidine-1-carboxylic acid tert-butyl ester
A solution of 4-{2-[3-(1-tert-butoxycarbonylmethyl-piperidin-4-yl)-1H-indazol-6-yl]-(E)-vinyl}-piperidine-1-carboxylic acid tert-butyl ester (0.29 g, 0.553 mmol) in dry DMF (5 ml) was stirred under nitrogen and treated with sodium hydride (0.024 g, 0.608 mmol, 60% dispersion in oil). The mixture was stirred for 0.5 h and a solution of 4-chlorobenzyl chloride (0.090 g, 0.559 mmol; Aldrich) in DMF (5 ml) was added). The mixture was stirred at 23° for 16 h, evaporated in vacuo, treated with water (10 ml) and extracted with dichloromethane (3×20 ml). The extracts were evaporated in vacuo and purified by flash chromatography on silica gel (Merck 9385), eluant ether:cyclohexane:triethylamine (50:50:2 to 100:0:2), to give the title compound as a colourless gum (0.157 g, 44%).

reactant | 4-{2-[3-(1-tert-butoxycarbonylmethyl-piperidin-4-yl)-1H-indazol-6-yl]-(E)-vinyl}-piperidine-1-carboxylic acid tert-butyl ester | 0.553 mmol, 0.29 g | C(C)(C)(C)OC(=O)N1CCC(CC1)\C=C\C1=CC=C2C(=NNC2=C1)C1CCN(CC1)CC(=O)OC(C)(C)C | C30H44N4O4
reactant | sodium hydride | 0.608 mmol, 0.024 g | [H-].[Na+]
reactant | 4-chlorobenzyl chloride | 0.559 mmol, 0.090 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-{2-[3-(1-tert-Butoxycarbonylmethyl-piperidin-4-yl)-1-(4-chloro-benzyl)-1H-indazol-6-yl]-(E)-vinyl}-piperidine-1-carboxylic acid tert-butyl ester | 0.157 g, 44% | C(C)(C)(C)OC(=O)N1CCC(CC1)\C=C\C1=CC=C2C(=NN(C2=C1)CC1=CC=C(C=C1)Cl)C1CCN(CC1)CC(=O)OC(C)(C)C | C37H49ClN4O4
